US07452893B2
A methanol (200 mL) solution of 4-(Benzyloxy)-2-fluorocyclohexanone (6.46 g, 29.1 mmol) was cooled in and ice bath under nitrogen. Sodium borohydride (1.66 g, 43.6 mmol) was added and the reaction aged 0.5 h. Hydrochloric acid (1 N) was slowly added after which methanol was removed under reduced pressure. Water was added and the resulting mixture was extracted with ethyl acetate (4×) and the combined organic extracts were washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 4-(Benzyloxy)-2-fluorocyclohexanol as a pale oil (6.05 g, 93% yield).

reactant | 4-(Benzyloxy)-2-fluorocyclohexanone | 29.1 mmol, 6.46 g | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)F | C13H15FO2
reactant | Sodium borohydride | 43.6 mmol, 1.66 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 4-(Benzyloxy)-2-fluorocyclohexanol | 6.05 g, 93% yield | C(C1=CC=CC=C1)OC1CC(C(CC1)O)F | C13H17FO2
